US06632919B1
3-Formyl-4-methyl-2-(pivaloylamino)pyridine
To a precooled (−78° C.) solution of 4-methyl-2-(pivaloylamino)pyridine (6.87 g, 36.0 mmol) in diethyl ether (100 mL, dried over molecular seives) was slowly added tert-BuLi (50.0 mL, 75.0 mmol). The resulting solution was stirred at −78° C. for 3.5 h prior to the addition of DMF (5.19 g, 71.0 mmol) and was stirred for additionally 30 min at −78° C. and then allowed to warm to rt, and poored into 2 M HCl (aqueous, 100 mL). After stirring this mixture for 15 min. the pH was adjusted to 7.0 by addition of K2CO3. The aqueous phase washed with diethyl ether (3×75 mL, dried over molecular seives), and the combined organic fractions was washed with brine (100 mL), dried (MgSO4) and evaporated in vacuo. The crude product was recrystallised from ethyl acetate/hexane to give the desired product (4.66 g, 59%) as a slightly tan crystals (mp 117-20° C.). 1H NMR(DMSO-d6): δ 11.19 (s br, 1H), 10.41 (s, 1H), 8.49 (d, 5.0 Hz, 1H), 6.92 (d, 5.0 Hz), 2.69 (s, 3H), 1.37 (s, 9H). 13C NMR (DMSO-d6): δ 192.02, 176.97, 154.15, 152.82, 152.69, 121.70, 116.09, 40.69, 27.46, 18.77. FAB+ MS (m/z): 221.1300 (M+H+, calc. for C12H16N2O2+H+ 221.1290).

reactant | 4-methyl-2-(pivaloylamino)pyridine | 36.0 mmol, 6.87 g | CC1=CC(=NC=C1)NC(C(C)(C)C)=O | C11H16N2O
reactant | tert-BuLi | 75.0 mmol, 50.0 mL | [Li]C(C)(C)C
reactant | DMF | 71.0 mmol, 5.19 g | CN(C)C=O | C3H7NO
reactant | HCl | 2 M, 100 mL | Cl | ClH
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 3-Formyl-4-methyl-2-(pivaloylamino)pyridine | 4.66 g, 59% | C(=O)C=1C(=NC=CC1C)NC(C(C)(C)C)=O | C12H16N2O2
